US08293917B2
To a solution of 1-(4-chloro-phenyl)-5-methoxymethyl-1H-pyrazole-4-carboxylic acid [(S)-1-(3-trifluoromethyl-phenyl)-butyl]-amide (510 mg, 1.1 mmol) in CH2Cl2 (10 mL) is added BBr3 (1.0 M in CH2Cl2, 1.6 mL, 1.6 mmol) dropwise. After stiffing at room temperature for 1 hour, the reaction mixture is quenched with methanol (25 mL) and concentrated in vacuo. The crude material is purified by flash chromatography on silica gel (eluted with 20 to 60% EtOAc/hexanes) to afford 1-(4-chloro-phenyl)-5-hydroxymethyl-1H-pyrazole-4-carboxylic acid [(S)-1-(3-trifluoromethyl-phenyl)-butyl]-amide (510 mg, >99%).

reactant | 1-(4-chloro-phenyl)-5-methoxymethyl-1H-pyrazole-4-carboxylic acid [(S)-1-(3-trifluoromethyl-phenyl)-butyl]-amide | 1.1 mmol, 510 mg | FC(C=1C=C(C=CC1)[C@H](CCC)NC(=O)C=1C=NN(C1COC)C1=CC=C(C=C1)Cl)(F)F | C23H23ClF3N3O2
reactant | BBr3 | 1.6 mmol, 1.0 M, 1.6 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-chloro-phenyl)-5-hydroxymethyl-1H-pyrazole-4-carboxylic acid [(S)-1-(3-trifluoromethyl-phenyl)-butyl]-amide | 510 mg, >99% | FC(C=1C=C(C=CC1)[C@H](CCC)NC(=O)C=1C=NN(C1CO)C1=CC=C(C=C1)Cl)(F)F | C22H21ClF3N3O2
